US04695571
1-Ethyl-2-oxo-2,3-dihydro-pyrano[2,3-f]indole
To a solution of 3.0 g. (13.8 mmoles) of 1-ethyl-5-hydroxy-6-allyloxindole (Preparation W2) in 30 ml. of tetrahydrofuran at 0° C. was slowly added 13.8 ml. (13.8 mmoles) of a 1M borane-tetrahydrofuran solution. The reaction was stirred for 30 minutes followed by the addition of 50 ml. of 1N sodium hydroxide solution and 25 ml. of a 30% hydrogen peroxide solution. After stirring the reaction for 5 minutes it was acidified with 25 ml. of 4N hydrochloric acid and extracted with methylene chloride (10×50 ml.). The extracts were combined, dried and concentrated to give the crude product, which was purified by chromatographing on 120 g. of silica gel using 5% methanol-methylene chloride as the eluent to give 1.85 g. (56% yield) of the desired product.

reactant | 1-ethyl-5-hydroxy-6-allyloxindole | 13.8 mmoles | C(C)N1C(CC2=CC(=C(C=C12)CC=C)O)=O | C13H15NO2
reactant | borane tetrahydrofuran | 1M | B.O1CCCC1
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Ethyl-2-oxo-2,3-dihydro-pyrano[2,3-f]indole | 56% yield | C(C)N1C(CC2=CC3=C(C=C12)C=CCO3)=O | C13H13NO2
